US07691882B2
4-(4-Fluoro-pyridin-2-yloxymethyl)-benzonitrile
To an N,N-dimethylformamide (15 mL) solution of 2-chloro-4-fluoropyridine (2.88 g, 21.9 mmol) and 4-(hydroxymethyl)benzonitrile (4.37 g, 32.9 mmol) was added sodium hydride (1.29 g, 32.9 mmol, 60% in oil) at room temperature. This mixture was stirred for 4 hours at 70° C. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-2:1) to obtain the title compound (4.08 g, 82%).

reactant | 2-chloro-4-fluoropyridine | 21.9 mmol, 2.88 g | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | 4-(hydroxymethyl)benzonitrile | 32.9 mmol, 4.37 g | OCC1=CC=C(C#N)C=C1 | C8H7NO
reactant | sodium hydride | 32.9 mmol, 1.29 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-(4-Fluoro-pyridin-2-yloxymethyl)-benzonitrile | 4.08 g, 82% | FC1=CC(=NC=C1)OCC1=CC=C(C#N)C=C1 | C13H9FN2O
